US05424443
2,4-dichloro-6-fluoro-7-hydrazinobenzothiazole
14.7 g 7-amino-2,4-dichloro-6-fluorobenzothiazole was dissolved in 128 ml concentrated hydrochloric acid and the mixture stirred for 30 minutes at room temperature. It was then cooled to -5° C. and, very slowly, a solution of 4.5 g sodium nitrite in 9.5 ml water was added, dropwise. The mixture was stirred for one hour and cooled to -15° C. At this temperature, a solution of 31.5 g tin (II) chloride in 19 ml concentrated hydrochloric acid was added, dropwise at a rate that the temperature did not rise above -8° C. The mixture was stirred for one hour, made alkaline using caustic soda, whilst cooling, and extracted with dichloromethane. The extract was dried over magnesium sulfate and concentrated. Yield: 7.8 g=50% of theory m.p.: 162°-180° C.

reactant | 7-amino-2,4-dichloro-6-fluorobenzothiazole | 14.7 g | NC1=C(C=C(C=2N=C(SC21)Cl)Cl)F | C7H3Cl2FN2S
reactant | sodium nitrite | 4.5 g | N(=O)[O-].[Na+]
reactant | tin (II) chloride | 31.5 g | [Sn](Cl)Cl
reactant | caustic soda | [OH-].[Na+]
solvent | hydrochloric acid | 128 ml | Cl | ClH
solvent | water | 9.5 ml | O | H2O
solvent | hydrochloric acid | 19 ml | Cl | ClH
product | 2,4-dichloro-6-fluoro-7-hydrazinobenzothiazole | ClC=1SC2=C(N1)C(=CC(=C2NN)F)Cl | C7H4Cl2FN3S
